US09386769B2
1.10 g of 6-chloro-N-((2-chlorothiazole-5-yl)methyl)-N-ethyl-3-nitropyridine-2-amine, prepared according to the example 1, in 30 mL of DMF was added into a 100 mL three-necked flask equipped with a magnetic stirrer, a condenser and a drying tube, under stirring at 5-10° C., 1.02 g of sodium prop-2-en-1-olate (the content of 30.7%) in 20 mL of DMF was added dropwise, and the reaction was complete after further stirred for 4 to 6 hours. The reaction mixture was treated by the method according to the example 1 to obtain 0.25 g of 6-allyloxy-N-((2-chlorothiazole-5-yl)methyl)-N-ethyl-nitropyridine-2-amine, having the content of 91%, as a brown sticky solid in a yield of 19.4%. GC-MS (M+) (EI, 70 eV, m/z) calc: 354. found: 354. 1H NMR (CDCl3/TMS, 300 MHz) δ (ppm) 1.221 (t, J=7.2 Hz, 3H, CH3), 3.291 (q, J=7.2 Hz, 2H, CH2), 4.817 (s, 2H, CH2), 4.869 (d J=2.7 Hz, 2H, CH2), 5.464-5.267 (m, 2H, CH2), 6.086-5.957 (m, 1H, CH), 6.231 (d, J=8.7 Hz, 1H, Py H), 7.473 (s, 1H, Thiazole-H), 8.171 (d, J=8.7 Hz, 1H, Py H).

reactant | 6-chloro-N-((2-chlorothiazole-5-yl)methyl)-N-ethyl-3-nitropyridine-2-amine | 1.10 g | ClC1=CC=C(C(=N1)N(CC)CC1=CN=C(S1)Cl)[N+](=O)[O-] | C11H10Cl2N4O2S
reactant | sodium prop-2-en-1-olate | 1.02 g | C(C=C)[O-].[Na+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 6-allyloxy-N-((2-chlorothiazole-5-yl)methyl)-N-ethyl-nitropyridine-2-amine | 0.25 g, yield of 19.4% | C(C=C)OC1=CC=C(C(=N1)N(CC)CC1=CN=C(S1)Cl)[N+](=O)[O-] | C14H15ClN4O3S
